US05563280
Preparation of 2-[4-(trifluoromethoxy)phenoxy]fumaric acid
A mixture of 4-(trifluoromethoxy)phenol (2.75 g, 12.5 mole) and dimethyl acetylene dicarboxylate (1.69 ml, 13.7 mmole) in dioxane is treated with benzyltrimethylammonium hydroxide (0.15 ml, 40% aqueous) at room temperature under a nitrogen atmosphere, heated to 90°-95° C. (condensation complete by thin layer chromatographic analysis) cooled to 40° C., treated with sodium hydroxide (10 ml, 20% aqueous), heated at 90° C. for 1 hour and cooled to room temperature. The reaction mixture is treated with 10% aqueous HCl to pH 7 and filtered. The filtrate is acidified to about pH 1 with HCl to afford a yellow precipitate. The solid is filtered and dried to give the title product, 2.56 g (70% yield), mp 208°-210° C., identified by 1H, 13C and 19FNMR, mass spectral and elemental analyses.

reactant | 4-(trifluoromethoxy)phenol | 12.5 mole, 2.75 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | dimethyl acetylene dicarboxylate | 13.7 mmole, 1.69 ml | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | benzyltrimethylammonium hydroxide | 0.15 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[4-(trifluoromethoxy)phenoxy]fumaric acid | 70% yield | FC(OC1=CC=C(O/C(/C(=O)O)=C\C(=O)O)C=C1)(F)F | C11H7F3O6
